US04480118
Synthesis of 2-(1-methyl-1-hydroxyethyl)-2,3-dihydrobenzofuran
Into 200 ml of ethanol, was dissolved 10.3 g of 2-(1-methyl-1-hydroxyethyl)benzofuran. To the solution, was added 1.1 g of 10% palladium carbon. Hydrogen was introduced into the mixture with shaking at atmospheric pressure and at room temperature until no more hydrogen had been absorbed (it took 6 hours). The reaction mixture was filtered and the filtrate was concentrated in vacuo. The residue was distilled under reduced pressure to obtain 6.86 g of the intended product boiling at 78°-95° C./0.4 mmHg.

reactant | 2-(1-methyl-1-hydroxyethyl)benzofuran | 10.3 g | CC(C)(O)C=1OC2=C(C1)C=CC=C2 | C11H12O2
reactant | Hydrogen | [H][H] | H2
catalyst | palladium carbon | 1.1 g | [C].[Pd]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(1-methyl-1-hydroxyethyl)-2,3-dihydrobenzofuran | 6.86 g | CC(C)(O)C1OC2=C(C1)C=CC=C2 | C11H14O2
